US08067448B2
N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-cyanobenzohydrazide
(2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid (805 mg, 3.0 mmol) and 4-cyano-benzohydrazide (483 mg, 3.0 mmol) were coupled in a procedure analogous to that used for the preparation of intermediate 3b. The crude product was purified by boiling in chloroform (10 mL) followed by cooling to 0° C. and filtration to yield product as a light yellow solid (718 mg, 50%). 1H NMR (500 MHz, acetone-d6, δ in ppm) 9.85 (br s, 2H), 8.09 (AA′XX′, J=8.2 Hz, 2H), 7.92 (AA′XX′, J=8.6 Hz, 2H), 7.52 (d, J=8.6 Hz, 1H), 6.74 (d, J=8.7 Hz, 1H), 5.60 (d, J=7.3 Hz, 1H), 4.27 (m, 1H), 4.16 (dd, J=5.0, 7.3 Hz, 1H), 2.88 (br s, 1H), 2.34 (s, 3H), 1.39 (d, J=6.4 Hz, 3H).

reactant | (2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid | 3.0 mmol, 805 mg | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)O)[C@@H](C)O)C | C12H13ClN2O3
reactant | 4-cyano-benzohydrazide | 3.0 mmol, 483 mg | C(#N)C1=CC=C(C(=O)NN)C=C1 | C8H7N3O
product | N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-cyanobenzohydrazide | 718 mg, 50% | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)NNC(C1=CC=C(C=C1)C#N)=O)[C@@H](C)O)C | C20H18ClN5O3
